US07399867B2
1-(2-{4-[6-Benzyloxy-2-(4-ethanesulfonyl-phenyl)-benzo[b]thiophen-3-yloxy]-phenoxy}-ethyl)-piperidine
Dissolve 1-{2-[4-(6-benzyloxy-2-bromo-benzo[b]thiophen-3-yloxy)-phenoxy]-ethyl}-piperidine (700 mg, 1.3 mmol) in dioxane (13 mL) and 10% aqueous sodium carbonate (6.9 mL, 6.5 mmol) and add 4-(ethanesulphonyl)benzene boronic acid (430 mg, 2 mmol) and Pd(PPh3)4 (150 mg, 0.13 mmol). Heat to 70° C. and stir overnight. Dilute with diethyl ether (25 mL) and water (25 mL), filter through Celite, and separate layers. Extract the aqueous layer with diethyl ether (50 mL). Combine the organic layers and wash with water (50 mL) and brine (50 mL). Dry with sodium sulfate, filter, and concentrate in vacuo. Chromatograph residue on a SiO2 column eluting with methanol in dichloromethane (0 to 5%) to give 400 mg of the title compound (49%): mass spectrum (ion spray): m/z=628.3 (M+H).

reactant | 1-{2-[4-(6-benzyloxy-2-bromo-benzo[b]thiophen-3-yloxy)-phenoxy]-ethyl}-piperidine | 1.3 mmol, 700 mg | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2OC2=CC=C(OCCN3CCCCC3)C=C2)Br)C1 | C28H28BrNO3S
reactant | sodium carbonate | 6.5 mmol, 6.9 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(ethanesulphonyl)benzene boronic acid | 2 mmol, 430 mg | C(C)S(=O)(=O)C1=CC=C(C=C1)B(O)O | C8H11BO4S
solvent | dioxane | 13 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | water | 25 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.13 mmol, 150 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-{4-[6-Benzyloxy-2-(4-ethanesulfonyl-phenyl)-benzo[b]thiophen-3-yloxy]-phenoxy}-ethyl)-piperidine | 400 mg, 49% | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2OC2=CC=C(OCCN3CCCCC3)C=C2)C2=CC=C(C=C2)S(=O)(=O)CC)C1 | C36H37NO5S2
